US07902181B2
e) (S)-2-Amino-3-(6-bromopyridin-3-yl)propanamide
(S)-tert-Butyl 1-amino-3-(6-bromopyridin-3-yl)-1-oxopropan-2-ylcarbamate (1.5 g) was dissolved in DCM (20 mL) and to the solution was added TFA (10 mL). The reaction mixture was stirred for 0.5 h then concentrated in vacuo. Crude material was dissolved in methanol and loaded onto an SCX cartridge. Non-basic impurities were washed off with methanol, then product was eluted with 10% ammonia in methanol to give the sub-title compound (1.0 g).

reactant | (S)-tert-Butyl 1-amino-3-(6-bromopyridin-3-yl)-1-oxopropan-2-ylcarbamate | 1.5 g | NC([C@H](CC=1C=NC(=CC1)Br)NC(OC(C)(C)C)=O)=O | C13H18BrN3O3
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-Amino-3-(6-bromopyridin-3-yl)propanamide | 1.0 g | N[C@H](C(=O)N)CC=1C=NC(=CC1)Br | C8H10BrN3O
